US07202364B2
A mixture of N-(1-chloro-6-fluoro-2-naphthyl)carbamic acid ethyl ester (600 mg, 2.24 mmol) and KOH (1.51 g, 26.9 mmol) in ethanol (20 mL) is heated to reflux temperature under N2 atmosphere for 12 hours. After cooling, the reaction mixture is concentrated by rotary evaporator. The residual oil is purified by flash chromatography on silica gel (3:1 hexanes/EtOAc) to give 1-chloro-6-fluoro-2-aminonaphthalene as a brown solid.

reactant | N-(1-chloro-6-fluoro-2-naphthyl)carbamic acid ethyl ester | 2.24 mmol, 600 mg | C(C)OC(NC1=C(C2=CC=C(C=C2C=C1)F)Cl)=O | C13H11ClFNO2
reactant | KOH | 26.9 mmol, 1.51 g | [OH-].[K+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-chloro-6-fluoro-2-aminonaphthalene | ClC1=C(C=CC2=CC(=CC=C12)F)N | C10H7ClFN
